US05235061
In the same apparatus and procedures as Example 2-i) were reacted 18.7 g (80 mmol) of 4-bromobiphenyl, 4.8 g of magnesium and 0.7 g of iodine to prepare 4-phenylphenyl Grignard solution. In the same apparatus and procedures were reacted 10.4 ml (80 mmol) of chloromethyldimethylchlorosilane and the prepared 4-phenylphenyl Grignard solution to treat the reaction product. After separating them by using silica gel column (eluent: hexane), 12 g of chloromethyldimethyl(4-phenylphenyl)silane (92%) was obtained.

reactant | 4-bromobiphenyl | 80 mmol, 18.7 g | BrC1=CC=C(C=C1)C1=CC=CC=C1 | C12H9Br
reactant | magnesium | 4.8 g | [Mg] | Mg
reactant | chloromethyldimethylchlorosilane | 80 mmol, 10.4 ml | ClC[Si](Cl)(C)C | C3H8Cl2Si
catalyst | iodine | 0.7 g | II | I2
product | chloromethyldimethyl(4-phenylphenyl)silane | 12 g, 92% | ClC[Si](C1=CC=C(C=C1)C1=CC=CC=C1)(C)C | C15H17ClSi
